* Subcircuit ICL8038
.subckt ICL8038 net-_q2-pad1_ net-_r2-pad2_ net-_q3-pad3_ net-_q10-pad1_ net-_q10-pad1_ net-_q16-pad3_ net-_d4-pad2_ net-_q35-pad3_ net-_q49-pad3_ net-_q10-pad1_ net-_q51-pad2_ net-_q52-pad2_ ? ? 
* c:\fossee\esim\library\subcircuitlibrary\icl8038\icl8038.cir
.include CBAT54_Schottky.lib
.include PNP.lib
.include D.lib
.include NPN.lib
q51 net-_q10-pad1_ net-_q51-pad2_ net-_q49-pad2_ Q2N2222
q49 net-_d4-pad2_ net-_q49-pad2_ net-_q49-pad3_ Q2N2907A
q47 net-_q10-pad1_ net-_q47-pad2_ net-_q45-pad2_ Q2N2222
q45 net-_d4-pad2_ net-_q45-pad2_ net-_q45-pad3_ Q2N2907A
q43 net-_q10-pad1_ net-_q43-pad2_ net-_q41-pad2_ Q2N2222
q41 net-_d4-pad2_ net-_q41-pad2_ net-_q41-pad3_ Q2N2907A
q39 net-_q10-pad1_ net-_q39-pad2_ net-_q37-pad2_ Q2N2222
q37 net-_d4-pad2_ net-_q37-pad2_ net-_q37-pad3_ Q2N2907A
q38 net-_q10-pad1_ net-_q38-pad2_ net-_q38-pad3_ Q2N2222
q40 net-_d4-pad2_ net-_q40-pad2_ net-_q38-pad2_ Q2N2907A
q44 net-_d4-pad2_ net-_q44-pad2_ net-_q42-pad2_ Q2N2907A
q42 net-_q10-pad1_ net-_q42-pad2_ net-_q42-pad3_ Q2N2222
q46 net-_q10-pad1_ net-_q46-pad2_ net-_q46-pad3_ Q2N2222
q48 net-_d4-pad2_ net-_q48-pad2_ net-_q46-pad2_ Q2N2907A
q52 net-_d4-pad2_ net-_q52-pad2_ net-_q50-pad2_ Q2N2907A
q50 net-_q10-pad1_ net-_q50-pad2_ net-_q49-pad3_ Q2N2222
q33 net-_q10-pad1_ net-_q33-pad2_ net-_q31-pad2_ Q2N2222
q31 net-_q10-pad1_ net-_q31-pad2_ net-_q27-pad3_ Q2N2222
q24 net-_q22-pad2_ net-_q16-pad3_ net-_q24-pad3_ Q2N2222
q27 net-_q22-pad2_ net-_q24-pad3_ net-_q27-pad3_ Q2N2222
q28 net-_d8-pad1_ net-_q25-pad3_ net-_q28-pad3_ Q2N2907A
q25 net-_d8-pad1_ net-_q16-pad3_ net-_q25-pad3_ Q2N2907A
q32 net-_d4-pad2_ net-_q32-pad2_ net-_q28-pad3_ Q2N2907A
q34 net-_d4-pad2_ net-_q34-pad2_ net-_q32-pad2_ Q2N2907A
q29 net-_q29-pad1_ net-_q29-pad1_ net-_q29-pad3_ Q2N2222
q35 net-_q10-pad1_ net-_q29-pad1_ net-_q35-pad3_ Q2N2222
q30 net-_d4-pad2_ net-_q26-pad3_ net-_q29-pad3_ Q2N2907A
q36 net-_d4-pad2_ net-_q26-pad3_ net-_q35-pad3_ Q2N2907A
q22 net-_d9-pad1_ net-_q22-pad2_ net-_q10-pad1_ Q2N2907A
q14 net-_q14-pad1_ net-_q14-pad2_ net-_q10-pad1_ Q2N2907A
q15 net-_q10-pad1_ net-_q14-pad1_ net-_q15-pad3_ Q2N2222
q16 net-_q15-pad3_ net-_q15-pad3_ net-_q16-pad3_ Q2N2222
q8 net-_q10-pad2_ net-_q14-pad2_ net-_q10-pad1_ Q2N2907A
q10 net-_q10-pad1_ net-_q10-pad2_ net-_q10-pad3_ Q2N2222
q11 net-_q10-pad3_ net-_q10-pad3_ net-_d5-pad2_ Q2N2222
q4 net-_q10-pad1_ net-_q3-pad3_ net-_q14-pad2_ Q2N2222
q3 net-_q14-pad2_ net-_q14-pad2_ net-_q3-pad3_ Q2N2222
q6 net-_q14-pad2_ net-_q10-pad3_ net-_q6-pad3_ Q2N2222
q17 net-_q16-pad3_ net-_d5-pad2_ net-_q12-pad1_ Q2N2222
q18 net-_q12-pad1_ net-_q12-pad1_ net-_q18-pad3_ Q2N2222
q12 net-_q12-pad1_ net-_q12-pad1_ net-_q12-pad3_ Q2N2222
q7 net-_d5-pad2_ net-_q12-pad1_ net-_q7-pad3_ Q2N2222
q1 net-_q1-pad1_ net-_d1-pad1_ net-_q1-pad3_ Q2N2222
q5 net-_q1-pad1_ net-_d6-pad2_ net-_q5-pad3_ Q2N2222
q2 net-_q2-pad1_ net-_q2-pad2_ net-_d4-pad2_ Q2N2222
d1 net-_d1-pad1_ net-_d1-pad2_ 1N4148
d2 net-_d1-pad2_ net-_d2-pad2_ 1N4148
d3 net-_d2-pad2_ net-_d3-pad2_ 1N4148
d4 net-_d3-pad2_ net-_d4-pad2_ 1N4148
r1  net-_q1-pad1_ net-_d1-pad1_ 30k
r4  net-_q5-pad3_ net-_q2-pad2_ 270
r5  net-_q2-pad2_ net-_d4-pad2_ 2.7k
r10  net-_d6-pad1_ net-_d5-pad1_ 470
r11  net-_d7-pad1_ net-_d6-pad2_ 27k
q21 net-_d6-pad1_ net-_d9-pad1_ net-_d4-pad2_ Q2N2222
r8  net-_q1-pad3_ net-_d6-pad2_ 620
r13  net-_q1-pad3_ net-_d6-pad1_ 1.8k
r9  net-_q12-pad3_ net-_d4-pad2_ 100
r7  net-_q7-pad3_ net-_d4-pad2_ 100
r12  net-_q18-pad3_ net-_d4-pad2_ 100
q26 net-_q10-pad1_ net-_q23-pad3_ net-_q26-pad3_ Q2N2222
q23 net-_q10-pad1_ net-_q15-pad3_ net-_q23-pad3_ Q2N2222
r16  net-_q23-pad3_ net-_q26-pad3_ 27k
r18  net-_q26-pad3_ net-_d4-pad2_ 27k
r20  net-_q10-pad1_ net-_q29-pad1_ 27k
r14  net-_d4-pad2_ net-_d8-pad1_ 4.7k
r15  net-_d4-pad2_ net-_d9-pad1_ 4.7k
r6  net-_q6-pad3_ net-_d5-pad2_ 40k
r2  net-_q10-pad1_ net-_r2-pad2_ 11k
r3  net-_r2-pad2_ net-_d4-pad2_ 39k
r17  net-_q10-pad1_ net-_q22-pad2_ 4k
r22  net-_q10-pad1_ net-_q33-pad2_ 5k
r23  net-_q33-pad2_ net-_q34-pad2_ 5k
r24  net-_q34-pad2_ net-_d4-pad2_ 5k
r19  net-_q28-pad3_ net-_q10-pad1_ 15k
r21  net-_d4-pad2_ net-_q27-pad3_ 10k
r26  net-_q45-pad3_ net-_q49-pad3_ 800
r27  net-_q41-pad3_ net-_q49-pad3_ 2.7k
r28  net-_q37-pad3_ net-_q49-pad3_ 10k
r31  net-_q46-pad3_ net-_q49-pad3_ 800
r30  net-_q42-pad3_ net-_q49-pad3_ 2.7k
r29  net-_q38-pad3_ net-_q49-pad3_ 10k
r35  net-_q10-pad1_ net-_q42-pad2_ 33k
r37  net-_q10-pad1_ net-_q46-pad2_ 33k
r39  net-_q10-pad1_ net-_q50-pad2_ 33k
r32  net-_q37-pad2_ net-_d4-pad2_ 33k
r34  net-_q41-pad2_ net-_d4-pad2_ 33k
r36  net-_q45-pad2_ net-_d4-pad2_ 33k
r38  net-_q49-pad2_ net-_d4-pad2_ 33k
r44  net-_q39-pad2_ net-_q40-pad2_ 1600
r45  net-_q40-pad2_ net-_q44-pad2_ 330
r46  net-_q44-pad2_ net-_q48-pad2_ 375
r47  net-_q48-pad2_ net-_q52-pad2_ 200
r48  net-_q52-pad2_ net-_d4-pad2_ 5.6k
r43  net-_q43-pad2_ net-_q39-pad2_ 330
r42  net-_q47-pad2_ net-_q43-pad2_ 375
r41  net-_q51-pad2_ net-_q47-pad2_ 200
r40  net-_q10-pad1_ net-_q51-pad2_ 5.2k
r25  net-_q35-pad3_ net-_q49-pad3_ 1k
r33  net-_q10-pad1_ net-_q38-pad2_ 33k
q9 net-_d5-pad2_ net-_d5-pad1_ net-_d4-pad2_ Q2N2222
d5 net-_d5-pad1_ net-_d5-pad2_ CBAT54
d9 net-_d9-pad1_ net-_d6-pad1_ CBAT54
q19 net-_d7-pad1_ net-_d8-pad1_ net-_d4-pad2_ Q2N2222
d8 net-_d8-pad1_ net-_d7-pad1_ CBAT54
q13 net-_d6-pad2_ net-_d6-pad1_ net-_d4-pad2_ Q2N2222
d6 net-_d6-pad1_ net-_d6-pad2_ CBAT54
q20 net-_d6-pad1_ net-_d7-pad1_ net-_d4-pad2_ Q2N2222
d7 net-_d7-pad1_ net-_d6-pad1_ CBAT54
* Control Statements

.ends ICL8038