* c:\users\malli\esim\src\subcircuitlibrary\4028\4028.cir

* u9  net-_u1-pad13_ net-_u11-pad1_ net-_u16-pad1_ d_nor
* u10  net-_u1-pad10_ net-_u10-pad2_ net-_u10-pad3_ d_nor
* u11  net-_u11-pad1_ net-_u10-pad2_ net-_u11-pad3_ d_nor
* u12  net-_u1-pad12_ net-_u1-pad11_ net-_u12-pad3_ d_nor
* u6  net-_u4-pad2_ net-_u1-pad11_ net-_u13-pad2_ d_nor
* u7  net-_u1-pad12_ net-_u5-pad2_ net-_u14-pad2_ d_nor
* u8  net-_u1-pad10_ net-_u1-pad13_ net-_u14-pad1_ d_nor
* u2  net-_u1-pad10_ net-_u11-pad1_ d_inverter
* u3  net-_u1-pad13_ net-_u10-pad2_ d_inverter
* u4  net-_u1-pad12_ net-_u4-pad2_ d_inverter
* u5  net-_u1-pad11_ net-_u5-pad2_ d_inverter
* u15  net-_u14-pad1_ net-_u12-pad3_ net-_u1-pad3_ d_and
* u16  net-_u16-pad1_ net-_u12-pad3_ net-_u1-pad14_ d_and
* u17  net-_u10-pad3_ net-_u12-pad3_ net-_u1-pad2_ d_and
* u18  net-_u11-pad3_ net-_u12-pad3_ net-_u1-pad15_ d_and
* u19  net-_u14-pad1_ net-_u13-pad2_ net-_u1-pad1_ d_and
* u20  net-_u16-pad1_ net-_u13-pad2_ net-_u1-pad6_ d_and
* u21  net-_u10-pad3_ net-_u13-pad2_ net-_u1-pad7_ d_and
* u13  net-_u11-pad3_ net-_u13-pad2_ net-_u1-pad4_ d_and
* u14  net-_u14-pad1_ net-_u14-pad2_ net-_u1-pad9_ d_and
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ ? net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ ? port
* u22  net-_u16-pad1_ net-_u14-pad2_ net-_u1-pad5_ d_and
a1 [net-_u1-pad13_ net-_u11-pad1_ ] net-_u16-pad1_ u9
a2 [net-_u1-pad10_ net-_u10-pad2_ ] net-_u10-pad3_ u10
a3 [net-_u11-pad1_ net-_u10-pad2_ ] net-_u11-pad3_ u11
a4 [net-_u1-pad12_ net-_u1-pad11_ ] net-_u12-pad3_ u12
a5 [net-_u4-pad2_ net-_u1-pad11_ ] net-_u13-pad2_ u6
a6 [net-_u1-pad12_ net-_u5-pad2_ ] net-_u14-pad2_ u7
a7 [net-_u1-pad10_ net-_u1-pad13_ ] net-_u14-pad1_ u8
a8 net-_u1-pad10_ net-_u11-pad1_ u2
a9 net-_u1-pad13_ net-_u10-pad2_ u3
a10 net-_u1-pad12_ net-_u4-pad2_ u4
a11 net-_u1-pad11_ net-_u5-pad2_ u5
a12 [net-_u14-pad1_ net-_u12-pad3_ ] net-_u1-pad3_ u15
a13 [net-_u16-pad1_ net-_u12-pad3_ ] net-_u1-pad14_ u16
a14 [net-_u10-pad3_ net-_u12-pad3_ ] net-_u1-pad2_ u17
a15 [net-_u11-pad3_ net-_u12-pad3_ ] net-_u1-pad15_ u18
a16 [net-_u14-pad1_ net-_u13-pad2_ ] net-_u1-pad1_ u19
a17 [net-_u16-pad1_ net-_u13-pad2_ ] net-_u1-pad6_ u20
a18 [net-_u10-pad3_ net-_u13-pad2_ ] net-_u1-pad7_ u21
a19 [net-_u11-pad3_ net-_u13-pad2_ ] net-_u1-pad4_ u13
a20 [net-_u14-pad1_ net-_u14-pad2_ ] net-_u1-pad9_ u14
a21 [net-_u16-pad1_ net-_u14-pad2_ ] net-_u1-pad5_ u22
* Schematic Name: d_nor, NgSpice Name: d_nor
.model u9 d_nor(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_nor, NgSpice Name: d_nor
.model u10 d_nor(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_nor, NgSpice Name: d_nor
.model u11 d_nor(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_nor, NgSpice Name: d_nor
.model u12 d_nor(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_nor, NgSpice Name: d_nor
.model u6 d_nor(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_nor, NgSpice Name: d_nor
.model u7 d_nor(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_nor, NgSpice Name: d_nor
.model u8 d_nor(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_inverter, NgSpice Name: d_inverter
.model u2 d_inverter(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_inverter, NgSpice Name: d_inverter
.model u3 d_inverter(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_inverter, NgSpice Name: d_inverter
.model u4 d_inverter(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_inverter, NgSpice Name: d_inverter
.model u5 d_inverter(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_and, NgSpice Name: d_and
.model u15 d_and(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_and, NgSpice Name: d_and
.model u16 d_and(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_and, NgSpice Name: d_and
.model u17 d_and(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_and, NgSpice Name: d_and
.model u18 d_and(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_and, NgSpice Name: d_and
.model u19 d_and(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_and, NgSpice Name: d_and
.model u20 d_and(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_and, NgSpice Name: d_and
.model u21 d_and(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_and, NgSpice Name: d_and
.model u13 d_and(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_and, NgSpice Name: d_and
.model u14 d_and(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_and, NgSpice Name: d_and
.model u22 d_and(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
